US06906072B1
Reference Example 63 Ethyl 4-cyano-5-methyl-4-(3-thienyl)hexanoate
3-Methyl-2-(3-thienyl)butanenitrile (6.23 g) obtained using 3-thienylacetonitrile as a starting material in accordance with the method of Example 114 described in JP-A 11-206862 and ethyl acrylate (4.53 g) were dissolved in dimethylformamide (15 ml), and added at a room temperature to a solution of potassium tert-butoxide (423 mg) in dimethylformamide solution (60 ml). After stirring 5 hours as it was, the organic layer was separated by adding an aqueous saturated ammonium chloride and diethyl ether thereto. The resulting organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then the filtrate was evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system), to give the title compound as a yellow oil (6.66 g, 67%).

reactant | 3-thienylacetonitrile | S1C=C(C=C1)CC#N | C6H5NS
reactant | ethyl acrylate | 4.53 g | C(C=C)(=O)OCC | C5H8O2
reactant | potassium tert-butoxide | 423 mg | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-cyano-5-methyl-4-(3-thienyl)hexanoate | 6.66 g, 67% | C(#N)C(CCC(=O)OCC)(C(C)C)C1=CSC=C1 | C14H19NO2S
